US04232086
A mixture of 1.0 mole of p-cresol, 1.2 moles of formaldehyde and 0.2 mole of ammonia is heated on a water bath to form an ammonia-cresol base resin. A quantity (40 parts) of this resin and 60 parts of a bisphenol-A type epoxy resin (Epikote® 1007 manufactured by Shell Chemical) are dissolved in a mixed organic solvent made up of equal amounts of methyisobutyl ketone and methylethyl ketone to form a base resin solution. Next, a modified olefin resin of the type indicated in Table 1 is dissolved in hot xylene to form a 10% solution. This solution is added to the base resin solution with sufficient agitation so that the amount of the modified olefin resin added to the base resin is as indicated in Table 1. In this way, a primer coating composition having a total solids content of about 30% is obtained.

reactant | p-cresol | 1.0 mole | C1=CC(=CC=C1O)C | C7H8O
reactant | formaldehyde | 1.2 moles | C=O | CH2O
reactant | ammonia | 0.2 mole | N | H3N
product | ammonia cresol | N.C1(=CC=CC=C1O)C | InChI=1S/C7H8O.H3N/c1-6-4-2-3-5-7(6)8;/h2-5,8H,1H3;1H3
